US08034812B2
Production of methyl 5-methyl-1,3-thiazole-4-carboxylate
To a solution of methyl 2-amino-5-methyl-1,3-thiazole-4-carboxylate (2.15 g, 12.5 mmol) in tetrahydrofuran (60 mL) was slowly added tert-butyl nitrite (2.23 mL, 18.7 mmol) with stirring at 50° C., and the mixture was stirred at 60° C. for 2 hr. The mixture was diluted with water (100 mL), and extracted with ethyl acetate (100 mL×2). The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=80/20→0/100) to give the title compound (1.17 g, yield 60%).

reactant | methyl 2-amino-5-methyl-1,3-thiazole-4-carboxylate | 12.5 mmol, 2.15 g | NC=1SC(=C(N1)C(=O)OC)C | C6H8N2O2S
reactant | tert-butyl nitrite | 18.7 mmol, 2.23 mL | N(=O)OC(C)(C)C | C4H9NO2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | methyl 5-methyl-1,3-thiazole-4-carboxylate | 1.17 g, yield 60% | CC1=C(N=CS1)C(=O)OC | C6H7NO2S
